US07795444B2
Preparation of 2-(3-chlorophenyl)-N-{(S)-2-(4-nitrophenyl)-1-[2-(thiophene-2-yl)oxazol-4-yl]ethyl}acetamide (48):
To a solution of (S)-2-(4-nitrophenyl)-1-[(thiophene-2-yl)oxazol-4-yl]ethanamine HBr, 47, (3.15 g, 10 mmol) 3-chlorophenyl-acetic acid (1.70 g, 10 mmol) and 1-hydroxybenzotriazole (HOBt) (0.70 g, 5.0 mmol) in DMF (50 mL) at 0° C., is added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (EDCI) (1.90 g, 10 mmol) followed by triethylamine (4.2 mL, 30 mmol). The mixture is stirred at 0° C. for 30 minutes then at room temperature overnight. The reaction mixture is diluted with water and extracted with EtOAc. The combined organic phase is washed with 1 N aqueous HCl, 5% aqueous NaHCO3, water and brine, and dried over Na2SO4. The solvent is removed in vacuo to afford the desired product which is used without further purification.

reactant | (S)-2-(4-nitrophenyl)-1-[(thiophene-2-yl)oxazol-4-yl]ethanamine HBr | Br.[N+](=O)([O-])C1=CC=C(C=C1)C[C@H](N)C=1N=C(OC1)C=1SC=CC1
reactant | 3-chlorophenyl-acetic acid | 10 mmol, 3.15 g | ClC=1C=C(C=CC1)CC(=O)O | C8H7ClO2
reactant | 1-hydroxybenzotriazole | 5.0 mmol, 0.70 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 10 mmol, 1.90 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | triethylamine | 30 mmol, 4.2 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(3-chlorophenyl)-N-{(S)-2-(4-nitrophenyl)-1-[2-(thiophene-2-yl)oxazol-4-yl]ethyl}acetamide | ClC=1C=C(C=CC1)CC(=O)N[C@@H](CC1=CC=C(C=C1)[N+](=O)[O-])C=1N=C(OC1)C=1SC=CC1 | C23H18ClN3O4S
